US07858624B2
(S)-tert-butyl 3-((R)-4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)butyl)piperidine-1-carboxylate (40 mg, 0.083 mmol) was dissolved in a solution of 20% (V/V) TFA/CH2Cl2 (3 mL). The reaction mixture was stirred at rt for 1 h (monitored by HPLC) and a solution of satd aq NaHCO3 was added dropwise to adjust the pH to 7-8. The resulting mixture was extracted with CH2Cl2 (3×5 mL) and the combined extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo to afford N—((R)-4-(6-fluoro-3′-methylbiphenyl-3-yl)-4-((S)piperidin-3-yl)butyl)acetamide (30 mg, 94%). MS (E/Z): 383 (M+H+).

reactant | (S)-tert-butyl 3-((R)-4-acetamido-1-(6-fluoro-3′-methylbiphenyl-3-yl)butyl)piperidine-1-carboxylate | 0.083 mmol, 40 mg | C(C)(=O)NCCC[C@@H](C=1C=C(C(=CC1)F)C1=CC(=CC=C1)C)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C29H39FN2O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA CH2Cl2 | 3 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N—((R)-4-(6-fluoro-3′-methylbiphenyl-3-yl)-4-((S)piperidin-3-yl)butyl)acetamide | 30 mg, 94% | FC1=CC=C(C=C1C1=CC(=CC=C1)C)[C@H](CCCNC(C)=O)[C@H]1CNCCC1 | C24H31FN2O
